US07435751B2
Step 8: Preparation of (S)-[3-(1-ethyl-7-fluoro-2-oxo-2,3-dihydro-1H-indol-5-yl)-2-oxo-oxazolidin-5-ylmethyl]-carbamic acid methyl ester
Methyl chloroformate (0.117 ml, 1.53 mmol) is added dropwise to (R)-5-(5-aminomethyl-2-oxo-oxazolidin-3-yl)-1-ethyl-7-fluoro-1,3-dihydro-indol-2-one (0.414 g, 1.02 mmol) and diisopropylethylamine (0.709 ml, 4.06 mmol) in dichloromethane (5 ml) at 0° C. The reaction is stirred at 0° C. for 30 minutes and then allowed to warm at room temperature. The reaction mixture is diluted with dichloromethane, washed with water and brine, dried (Na2SO4) and evaporated. The residue is purified by PTLC (5% MeOH/DCM) to give the title compound as a yellow solid. HPLC r.t. 4.04 min; 1H NMR (300 MHz, CDCl3) 7.30 (s, 1H), 7.23 (dd, J=2, 13.2 Hz, 1H), 5.13 (t, 1H), 4.74-4.81 (m, 1H), 4.03 (t, J=9.2 Hz, 1H), 3.90 (q, J=6.8 Hz, 2H), 3.80 (dd, J=6.8, 9.2 Hz, 1H), 3.69 (s, 3H), 3.53-3.67 (m, 2H), 1.28 (t, J=6.8 Hz, 3H); MS for C16H18FN3O5 m/z 352.1 (M+H)+.

reactant | Methyl chloroformate | 1.53 mmol, 0.117 ml | ClC(=O)OC | C2H3ClO2
reactant | (R)-5-(5-aminomethyl-2-oxo-oxazolidin-3-yl)-1-ethyl-7-fluoro-1,3-dihydro-indol-2-one | 1.02 mmol, 0.414 g | NC[C@@H]1CN(C(O1)=O)C=1C=C2CC(N(C2=C(C1)F)CC)=O | C14H16FN3O3
reactant | diisopropylethylamine | 4.06 mmol, 0.709 ml | C(C)(C)N(CC)C(C)C | C8H19N
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | (S)-[3-(1-ethyl-7-fluoro-2-oxo-2,3-dihydro-1H-indol-5-yl)-2-oxo-oxazolidin-5-ylmethyl]-carbamic acid methyl ester | COC(NC[C@H]1CN(C(O1)=O)C=1C=C2CC(N(C2=C(C1)F)CC)=O)=O | C16H18FN3O5
